US05972965
A mixture of 1-hydroxy-1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cycloheptane (5.2 g) and p-toluenesulfonic acid (500 mg) in toluene (50 ml) was stirred under reflux for 4 hours. The solution was washed with water, sat. NaHCO3 and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 1-(4,5-diphenyloxazol-2-yl)-7-(3-methoxybenzyl)-1-cycloheptene (4.7 g). MS (m/z): 436 (M+ +1) IR (Neat): 1600 cm-1NMR (CDCl3, δ): 1.3-2.0 (6H, m), 2.4 (2H, m), 2.83 (1H, dd, J=10.0, 14 Hz), 3.00 (1H, dd, J=6.0, 14.0 Hz), 3.78 (3H, s), 6.7-7.0 (3H, m), 7.20 (1H, t, J=8 Hz), 7.2-7.8 (11H, m)

reactant | 1-hydroxy-1-(4,5-diphenyloxazol-2-yl)-2-(3-methoxybenzyl)cycloheptane | 5.2 g | OC1(C(CCCCC1)CC1=CC(=CC=C1)OC)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H31NO3
reactant | p-toluenesulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4,5-diphenyloxazol-2-yl)-7-(3-methoxybenzyl)-1-cycloheptene | 4.7 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCCCCC1CC1=CC(=CC=C1)OC | C30H29NO2
